US09331285B2
(1) Synthesis of N-(4-(trimethylsilyl)phenyl)acetamide
Under a flow of argon, in a 1 L-recovery flask, 35 g of 1-bromo-4-(trimethylsilyl)benzene, 22.6 g of acetamide, 5.8 g of copper(I)iodide, 42.2 g of potassium carbonate, and 380 mL of xylene were placed. After stirring, 6.6 mL of N,N′-dimethylethylenediamine was added. The resultant was heated and stirred at reflux for 18 hours.

reactant | 1-bromo-4-(trimethylsilyl)benzene | 35 g | BrC1=CC=C(C=C1)[Si](C)(C)C | C9H13BrSi
reactant | acetamide | 22.6 g | C(C)(=O)N | C2H5NO
reactant | potassium carbonate | 42.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 6.6 mL | CNCCNC | C4H12N2
catalyst | copper(I)iodide | 5.8 g | [Cu]I
solvent | xylene | 380 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-(trimethylsilyl)phenyl)acetamide | C[Si](C1=CC=C(C=C1)NC(C)=O)(C)C | C11H17NOSi
